US07157464B2
Synthesis of 1-(4-Methoxy-pyridin-2-yl)-piperazine
To 756 mg (5.29 mmol) of 2-Chloro-4-methoxypyridine and 2.27 g (26 mmol) of piperazine in a pressure flask was added 2.7 mL dimethylformamide, and the mixture was heated at 115° C. for 5 hours. The solution was allowed to cool before opening the flask, and the resulting slurry was partitioned between ethyl acetate and water. The phases were separated, and the aqueous phase was back-extracted once with ethyl acetate. The combined ethyl acetate phases were washed once with brine, dried over Na2SO4, filtered, and the filtrate was acidified with 2M HCl in ether. The product crystallized over night, and the solids were isolated by filtration to yield product as a white solid: 1H NMR (D2O, 400 MHz) 7.72 (d, 1H), 6.61 (d, 1H), 6.48 (s, 1H), 3.88 (s, 3H), 3.79 (m, 4H), 3.36 (m, 4H) ppm.

reactant | 2-Chloro-4-methoxypyridine | 5.29 mmol, 756 mg | ClC1=NC=CC(=C1)OC | C6H6ClNO
reactant | piperazine | 26 mmol, 2.27 g | N1CCNCC1 | C4H10N2
solvent | dimethylformamide | 2.7 mL | CN(C=O)C | C3H7NO
product | 1-(4-Methoxy-pyridin-2-yl)-piperazine | COC1=CC(=NC=C1)N1CCNCC1 | C10H15N3O
